US07282501B2
Step B: 3-[4-(tert-Butyldiphenylsilanyloxy)-2-(4-trifluoromethylphenoxymethyl)phenyl]-propionic acid tert-butyl ester
A 50 mL round bottomed flask was charged with 3-[2-bromomethyl-4-(tert-butyldiphenylsilanyloxy)phenyl]propionic acid tert-butyl ester (1.0 g, 1.81 mmol), anhydrous DMF (10 mL), and then 4-trifluoromethylphenol (0.44 g, 2.7 mmol) and cesium carbonate (0.88 g, 2.7 mmol). The reaction mixture was stirred at ambient temperature under a nitrogen atmosphere for 18 h and concentrated. The residue was diluted with EtOAc (100 mL). The organic layer was washed with brine (2×), dried (Na2SO4), and concentrated to a yellow oil. The crude residue was purified using radial (EtOAc:hexanes 15:85 to 50:50) to give a yellow oil (0.66 g, 58%). MS (ES) m/e 635 (M+1).

reactant | 3-[2-bromomethyl-4-(tert-butyldiphenylsilanyloxy)phenyl]propionic acid tert-butyl ester | 1.81 mmol, 1.0 g | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CBr)=O | C30H37BrO3Si
reactant | 4-trifluoromethylphenol | 2.7 mmol, 0.44 g | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | cesium carbonate | 2.7 mmol, 0.88 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-[4-(tert-Butyldiphenylsilanyloxy)-2-(4-trifluoromethylphenoxymethyl)phenyl]-propionic acid tert-butyl ester | 0.66 g, 58% | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)COC1=CC=C(C=C1)C(F)(F)F)=O | C37H41F3O4Si
